* Extracted by KLayout with SG13G2 LVS runset on : 24/07/2026 09:41

.SUBCKT MIXER_77G_XTOR
Q$1 \$31 \$32 \$37 \$1 npn13G2l we=70n le=1000n Nx=1 m=4
Q$2 \$33 \$34 \$37 \$1 npn13G2l we=70n le=1000n Nx=1 m=4
Q$9 \$81 \$72 \$31 \$1 npn13G2l we=70n le=1000n Nx=1 m=4
Q$11 \$81 \$72 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=4
R$17 \$18 \$19 \$1 rppd w=0.5u l=0.5u ps=0u b=0 m=1
R$18 \$111 \$112 \$1 rppd w=0.5u l=0.5u ps=0u b=0 m=1
R$19 \$113 \$114 \$1 rppd w=0.5u l=0.5u ps=0u b=0 m=1
.ENDS MIXER_77G_XTOR
